US08835472B2
1-{2-[4-(4-Ethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-3,3-dimethyl-azetidin-2-one
To 33.5 mg (120 μmol) 2-[4-(4-ethoxy-phenylethynyl)-phenyl]-1-methyl-ethylamine (I64) in 2.0 mL ACN are added 166 mg (1.20 mmol) K2CO3, a few crystals DMAP and finally 23.5 μL (0.18 mmol) 3-chloropivaloyl chloride (in 1.0 mL ACN). The reaction mixture is stirred at reflux for 6 h. The solvent is removed in vacuo and the residue is resolved EtOAc and washed with water (1×), sat. aq. NaHCO3 solution (2×) and again with water. The organic layer is dried with Na2SO4 and the solvent is evaporated in vacuo. The residue is purified by HPLC (MeOH/H2O/TFA).

reactant | 2-[4-(4-ethoxy-phenylethynyl)-phenyl]-1-methyl-ethylamine | 120 μmol, 33.5 mg | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)N | C19H21NO
reactant | K2CO3 | 1.20 mmol, 166 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloropivaloyl chloride | 0.18 mmol, 23.5 μL | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
solvent | ACN | 2.0 mL | C(C)#N | C2H3N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-{2-[4-(4-Ethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-3,3-dimethyl-azetidin-2-one | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)N1C(C(C1)(C)C)=O | C24H27NO2
